US07001897B2
To a solution of 3-methanesulfonyloxy-1-[4-(methoxycarbonylamino-methyl)-1,3-thiazol-2-yl]azetidine (448 mg, 1.39 mmol) (obtained as described in Reference Example 63(3)) in dimethylformamide (13 ml) was added potassium thioacetate (952 mg, 8.34 mmol) at room temperature, and the mixture was stirred in an oil bath (90° C.) for 6 hours. After checking the completion of the reaction, the mixture was partitioned between ethyl acetate and 10% aqueous sodium chloride solution. The organic layer was washed with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using hexane:ethyl acetate (1:2) as the eluant to afford 3-acetylthio-1-[4-(methoxycarbonylaminomethyl)-1,3-thiazol-2-yl]azetidine (441 mg, yield 100%) as a pale brown solid.

reactant | 3-methanesulfonyloxy-1-[4-(methoxycarbonylamino-methyl)-1,3-thiazol-2-yl]azetidine | 1.39 mmol, 448 mg | CS(=O)(=O)OC1CN(C1)C=1SC=C(N1)CNC(=O)OC | C10H15N3O5S2
reactant | potassium thioacetate | 8.34 mmol, 952 mg | C(C)(=S)[O-].[K+]
solvent | dimethylformamide | 13 ml | CN(C=O)C | C3H7NO
product | 3-acetylthio-1-[4-(methoxycarbonylaminomethyl)-1,3-thiazol-2-yl]azetidine | 441 mg, yield 100% | C(C)(=O)SC1CN(C1)C=1SC=C(N1)CNC(=O)OC | C11H15N3O3S2
